US04042373
A mixture of 10.6 parts of 2-(4-chlorophenyl)-3-hydroxy-2,4,6,7-tetrahydro-thiopyrano[4,3-c]pyrazole, prepared according to the method of Example 1, and 12 parts of phosphorous oxybromide in 120 parts of xylene was refluxed for 7 hours and then stirred at room temperature for 12 hours. The suspension was neutralized with 5% sodium bicarbonate followed by extraction with chloroform (3 × 100 parts). The chloroform solution was washed with a saturated NaCl solution, dried over anhydrous magnesium sulfate and evaporated at a reduced pressure of 50 to 300 mm Hg, yielding a brown oil. This oil crystallized from acetone yielding 4.3 parts of the desired product, m.p. 138°-145° C.; a second recrystallization from acetone/methylene chloride gave 3.4 parts of pure 3-bromo-2-(4-chlorophenyl)-2,4,6,7-tetrahydrothiopyrano[4,3-c]pyrazole, m.p. 143.5°-145° C.

reactant | 2-(4-chlorophenyl)-3-hydroxy-2,4,6,7-tetrahydro-thiopyrano[4,3-c]pyrazole | ClC1=CC=C(C=C1)N1N=C2C(=C1O)CSCC2 | C12H11ClN2OS
reactant | phosphorous oxybromide | P(=O)(Br)(Br)Br | Br3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-bromo-2-(4-chlorophenyl)-2,4,6,7-tetrahydrothiopyrano[4,3-c]pyrazole | BrC1=C2C(=NN1C1=CC=C(C=C1)Cl)CCSC2 | C12H10BrClN2S
